US06720320B2
By the reactions in the same manner as in Starting Material Synthesis Example 16 using 4-(methoxymethyloxy)-benzo(b)thiophene-2-carboxylic acid (4.5 g), N,O-dimethylhydroxylamine hydrochloride (2.1 g) and diethyl cyanophosphate (3.2 g), 4-hydroxy-N-methoxy-N-methylbenzo(b)-thiophene-2-carboxamide (4.0 g) was obtained as a brown oil. By the reactions in the same manner as in Starting Material Synthesis Example 1 using the brown oil (2.0 g) and (S)-glycidyl nosylate (2.0 g), the title compound (1.1 g) was obtained as brown crystals.

reactant | 4-(methoxymethyloxy)-benzo(b)thiophene-2-carboxylic acid | 4.5 g | COCOC1=CC=CC=2SC(=CC21)C(=O)O | C11H10O4S
reactant | N,O-dimethylhydroxylamine hydrochloride | 2.1 g | Cl.CNOC
reactant | diethyl cyanophosphate | 3.2 g | P(=O)(OCC)(OCC)C#N | C5H10NO3P
product | 4-hydroxy-N-methoxy-N-methylbenzo(b)-thiophene-2-carboxamide | 4.0 g | OC1=CC=CC=2SC(=CC21)C(=O)N(C)OC | C11H11NO3S
